US06476041B1
5-[2-(4-Benzyl-piperidin-1-yl)ethyl]-2,2-dimethyl-[1,3]dioxane-4,6-dione:
Following the procedure described in S. Danishefsky and R. K. Singh, J. American Chemical Society, 97:3239-3241(1975), a mixture of 0.5 g of 4-benzylpiperidine, 10 mL of toluene, and 0.5 g, of 6,6-dimethyl-5,7-dioxaspiro[2.5]octane 4,8-dione was stirred for 20 h, cooled, and, the white solid product collected by filtration and dried under vacuum. The yield of 5-[2-(4-benzyl-piperidin-1-yl)-ethyl]-2,2-dimethyl-[1,3]dioxane-4,6-dione was 0.94 g.

reactant | 4-benzylpiperidine | 0.5 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | 6,6-dimethyl-5,7-dioxaspiro[2.5]octane 4,8-dione | CC1(OC(C2(CC2)C(O1)=O)=O)C | C8H10O4
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 5-[2-(4-Benzyl-piperidin-1-yl)ethyl]-2,2-dimethyl-[1,3]dioxane-4,6-dione | C(C1=CC=CC=C1)C1CCN(CC1)CCC1C(OC(OC1=O)(C)C)=O | C20H27NO4
